US05068334
1-Ethyl-3-methyl-7,8-dihydro-2,5(1H,6H)-quinolinedione
Prepared analogously to Example 5(b) from 3-methyl- 5,6,7,8-tetrahydro-cumarin-5-one and ethylamine.

reactant | 3-methyl- 5,6,7,8-tetrahydro-cumarin-5-one | CC=1C(OC=2CCCC(C2C1)=O)=O | C10H10O3
reactant | ethylamine | C(C)N | C2H7N
product | 1-Ethyl-3-methyl-7,8-dihydro-2,5(1H,6H)-quinolinedione | C(C)N1C(C(=CC=2C(CCCC12)=O)C)=O | C12H15NO2
